US07087597B1
ethyl 2-(2,3-dihydro-1H-indol-1-yl)-4-{[4-(trifluoromethoxy)benzyl]oxy}-5-pyrimidinecarboxylate
To a solution of ethyl 4-chloro-2-(2,3-dihydro-1H-indol-1-yl)-5-pyrimidinecarboxylate (520 mg, 1.72 mmol) in N,N-dimethylformamide (5 mL) was added potassium carbonate (829 mg, 6 mmol) and 4-(trifluoromethoxy)benzyl alcohol (384 mg, 2 mmol) and the mixture was stirred at 100° C. for 18 h. The reaction mixture was allowed to cool to room temperature and water was added, which was followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure and the residue was applied to silica gel column chromatography and eluted with hexane-ethyl acetate (4:1) to give the title compound (420 mg, 53%).

reactant | ethyl 4-chloro-2-(2,3-dihydro-1H-indol-1-yl)-5-pyrimidinecarboxylate | 1.72 mmol, 520 mg | ClC1=NC(=NC=C1C(=O)OCC)N1CCC2=CC=CC=C12 | C15H14ClN3O2
reactant | potassium carbonate | 6 mmol, 829 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(trifluoromethoxy)benzyl alcohol | 2 mmol, 384 mg | FC(OC1=CC=C(CO)C=C1)(F)F | C8H7F3O2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | ethyl 2-(2,3-dihydro-1H-indol-1-yl)-4-{[4-(trifluoromethoxy)benzyl]oxy}-5-pyrimidinecarboxylate | 420 mg, 53% | N1(CCC2=CC=CC=C12)C1=NC=C(C(=N1)OCC1=CC=C(C=C1)OC(F)(F)F)C(=O)OCC | C23H20F3N3O4
